US04127646
Following the procedures of Example 4, an equimolar mixture of 3,5-dinitroaniline and 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in methanol was reacted to give 5-acetyl-4-hydroxy-3-[1-(3,5-dinitrophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione. A solution of the latter (3.0 g., 0.008 mol) in 30 ml. of dimethylformamide was hydrogenated over 200 mg. of 10% palladium-on-carbon at 50 psi. When absorption stopped the catalyst was filtered and the filtrate poured into 200 ml. of ice-water. The resulting product was filtered, washed with water and dried to give 5-acetyl-4-hydroxy-3-[1-(3,5-diaminophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. above 350° C. (dec.).

reactant | 3,5-dinitroaniline | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(3,5-dinitrophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])O | C15H11N3O9
